US06313116B1
4-Methoxy-2-(4-methylpiperazin-1-yl)benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
A suspension of 4-methoxy-2-(piperazin-1-yl)benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide trifluoroacetic acid salt (275 mg) in acetonitrile (20 ml) was treated with formaldehyde (0.44 ml, 37% aqueous solution), sodium cyanoborohydride (102 mg), and acetic acid (0.3 ml) and the mixture stirred at room temperature of 12 hours. The solvent was evaporated in vacuao and the residue partitioned between aqueous sodium hydroxide (10 ml, 1M) and dichloromethane (100 ml). The aqueous layer was separated, was neutralised with acetic acid, and extracted with 2% methanol in dichloromethane (2×75 ml). The extracts were combined, dried over magnesium sulphate (5 g), filtered, and the filtrate evaporated in vacuo. Purification by column chromatography (eluent 5% methanol in dichloromethane) followed by trituration with diethyl ether yielded the title compound as a pale yellow solid (40 mg). TLC Rf 0.14 (10% methanol in dichloromethane); Mpt 249-251° C.

reactant | 4-methoxy-2-(piperazin-1-yl)benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide trifluoroacetic acid salt | 275 mg | FC(C(=O)O)(F)F.C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)N2CCNCC2)OC
reactant | formaldehyde | 0.44 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 102 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-Methoxy-2-(4-methylpiperazin-1-yl)benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 40 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)N2CCN(CC2)C)OC | C19H21N7O2S
